US07585869B2
3-[4-(6-Fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-benzoic acid tert-butyl ester:
A solution of 6-Fluoro-3H-pyrido[3,4-d]pyrimidin-4-one (0.5 g, 3.05 mmol), SOCl2 (3.63 g, 30.5 mmol), and DMF (0.2 mL) in DCE (20 mL) was heated to reflux for 12 h. The reaction was then concentrated and the resulting dark residue was dissolved in t-BuOH/DCE 1:1 (20 mL), NEt3 (0.34 g, 3.36 mmol) and 3-(4-Amino-2-methyl-phenoxy)-benzoic acid tert-butyl ester (0.91 g, 3.05 mmol) were added, the resulting solution was heated to reflux for 5 h. The reaction was concentrated, the residue was dissolved in EtOAc and washed 2× water then the organic layer was dried over Na2SO4. Purification by flash column chromatography (Hexane/Ethyl Acetate 4:6) gave the title compound as a yellow solid (1.1 g, 80%). LRMS: 447.3/391.2 (MH+). 1H NMR (DMSO-d6, 400 MHz): δ 10.03 (s, 1H), δ 8.90 (s, 1H), δ 8.65 (s, 1H), δ 8.23 (s, 1H), δ 7.803 (d, 1H), δ 7.73 (dd, J=6.23, 2.49, 1H), δ 7.58 (d, 1H) δ 7.45 (t, J=7.89, 1H), δ 7.31-7.32 (m, 1H), δ 7.14-7.16 (m, 1H), δ 7.027 (d, J=8.72, 1H), δ 2.16 (s, 3H), δ 1.48 (s, 9H).

reactant | 6-Fluoro-3H-pyrido[3,4-d]pyrimidin-4-one | 3.05 mmol, 0.5 g | FC1=CC2=C(N=CNC2=O)C=N1 | C7H4FN3O
reactant | SOCl2 | 30.5 mmol, 3.63 g | O=S(Cl)Cl | Cl2OS
reactant | NEt3 | 3.36 mmol, 0.34 g | CCN(CC)CC | C6H15N
reactant | 3-(4-Amino-2-methyl-phenoxy)-benzoic acid tert-butyl ester | 3.05 mmol, 0.91 g | C(C)(C)(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)N)C)=O | C18H21NO3
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | 3-[4-(6-Fluoro-pyrido[3,4-d]pyrimidin-4-ylamino)-2-methyl-phenoxy]-benzoic acid tert-butyl ester | 1.1 g, 80% | C(C)(C)(C)OC(C1=CC(=CC=C1)OC1=C(C=C(C=C1)NC=1C2=C(N=CN1)C=NC(=C2)F)C)=O | C25H23FN4O3
